US04331466
SYNTHESIS OF 2-(M-METHYLUREIDOPHENYL)-5,5-DIETHYL-1,3-DIOXANE
Nine and four tenths grams (9.4 g) of 2-(m-aminophenyl)-5,5-diethyl-1,3-dioxane was reacted with 3 g of methyl isocyanate in 75 ml of acetone. The mixture was refluxed for between one and two hours and poured into water and the product collected by filtration. The yield was 11.7 g of the title compound, m.p. 112°-125° C. Trituration with diethyl ether raised the melting point to 135°-137° C.

reactant | 2-(m-aminophenyl)-5,5-diethyl-1,3-dioxane | 9.4 g | NC=1C=C(C=CC1)C1OCC(CO1)(CC)CC | C14H21NO2
reactant | methyl isocyanate | 3 g | CN=C=O | C2H3NO
reactant | water | O | H2O
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 2-(M-METHYLUREIDOPHENYL)-5,5-DIETHYL-1,3-DIOXANE | CNC(NC=1C=C(C=CC1)C1OCC(CO1)(CC)CC)=O | C16H24N2O3
